### PR TITLE
feat: new foundations for `mvcgen` tactic

### PR DESCRIPTION
**Pull request by volodeyka**
This PR Introduces new foundations for reasoning about monadic Lean code. Eventually we will port `mvcgen` on top of these new foundations, to make the framework more general and robust. 

Key issues, new metatheory is supposed to solve are
- It gives more flexibility over what an assertion language for pre-/post-conditions of monadic Hoare triples can be. In particular, any `CompleteLattice` might become a pre-/post-condtions language, not only `SPred`. It potentially gives an opportunity to reason about probabilistic monads, where assertion language are distributions. This also simplifies the metatheory of monadic Hoare triples, as it does not require defining the notion of `SPred`, and allows users to work in a fairly common interface of `CompleteLattice`
- It splits the post-conditions of Hoare triples/ WPs into two: (1) `post` for post-conditions on terminating paths and (2) `epost` for post-conditions on abrupt paths. Current foundations always bundle them into a pair, which inevitably leads to constructing and eliminating such pairs everywhere in the code. 
- It relaxes some conditions that the current foundations require for instantiating `WPMonad` type class. In particular we do not require `wp` to distribute over `bind` any more. Instead, we require just `wp x (fun x => wp (f x) post epost) epost ⊑ wp (x >>= f) post epost`, i.e. the distributed `wp` must only imply the non-distributed one (and not necessarily vice versa). With this we can define `WPMonad` for Separation Logic, where `wp` only distributes over `bind` on local-footprint computations. 
- It solves some universe polymorphism issues. As now universe levels of assertion languages are independent of universe levels in the monad, one can define `WPMonad Id.{u} Prop EPost⟨⟩`, which means that for arbitrary level `Id` the language for pre-/post-conditions is going to be just `Prop` and the language for post-conditions on abrupt exits is idle.

### CODE REVIEW

File: script/lean-toolchain [hunk 1]
```diff
@@ -1 +1 @@
-../build/release/stage1
+lean4
```
Comment (sgraf812) [inline script/lean-toolchain]: Upgrade your `elan` and undo this change

File: src/Std/Internal/Do/Triple/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,93 @@
+/-
```
Comment (sgraf812) [inline src/Std/Internal/Do/Triple/Basic.lean:1]: Hmm, I would prefer `Std/Experimental/Do/...` instead of `Std/Do'/...`. Primes look quite weird to me in a module name. They also don't convey the "don't use this; it's experimental" as much as a long and annoying `Experimental` in the import.

File: src/Std/Do'/LatticeExt.lean [hunk 3]
```diff
@@ -0,0 +1,341 @@
...
+
+attribute [refl] PartialOrder.rel_refl
+
+variable {α : Type u} [CompleteLattice α]
+
+/-- Top element of a complete lattice (supremum of all elements) -/
+noncomputable def latticeTop : α := CompleteLattice.sup (fun _ => True)
+
+@[inherit_doc latticeTop]
+notation "⊤" => latticeTop
```
Comment (sgraf812) [inline src/Std/Do'/LatticeExt.lean]: This notation should be scoped, at the very least. Can we get by without? Also I wonder if this whole file isn't best upstreamed into `Init/Internal/Order/{Basic.lean,Lemmas.lean}` right away.

Ahhh, indeed, there already is `Lean.Order.bot` and `scoped` notation. You just need to add `top` there.

Also we need Joachim to sign off on these additions once the PR is ready to merge.

File: src/Std/Do'/Frame.lean [hunk 4]
```diff
@@ -0,0 +1,118 @@
...
+
+prelude
+import Lean
+public import Std.Do'.LatticeExt
+
+public section
+
+open Lean.Order
+
+namespace Loom
```
Comment (sgraf812) [inline src/Std/Do'/Frame.lean]: Fix namespace

File: src/Std/Do'/Frame.lean [hunk 5]
```diff
@@ -0,0 +1,118 @@
...
+variable {α : Type u} [CompleteLattice α]
+
+/--
+A frame is a complete lattice where binary meet distributes over arbitrary joins.
+
+We keep `CompleteLattice` as a parameter (instead of extending it), so the class only
+adds the frame law.
+-/
+class Frame (α : Type u) [CompleteLattice α] : Prop where
+  inf_sup (a : α) (s : α → Prop) :
```
Comment (sgraf812) [inline src/Std/Do'/Frame.lean]:
```suggestion
  meet_sup (a : α) (s : α → Prop) :
```

File: src/Std/Internal/Do/Frame.lean [hunk 6]
```diff
@@ -0,0 +1,118 @@
...
+/--
+A frame is a complete lattice where binary meet distributes over arbitrary joins.
+
+We keep `CompleteLattice` as a parameter (instead of extending it), so the class only
+adds the frame law.
+-/
+class Frame (α : Type u) [CompleteLattice α] : Prop where
+  inf_sup (a : α) (s : α → Prop) :
+    a ⊓ CompleteLattice.sup s =
+      CompleteLattice.sup (fun y => ∃ x, s x ∧ y = a ⊓ x)
```
Comment (sgraf812) [inline src/Std/Internal/Do/Frame.lean:29]: Isn't this just distributivity in disguise? E.g., presuming that `s = {b, c}` and writing `/\` for meet

```
  a /\ sup {b,c}
= sup {a /\ b, a /\ c}
= sup { a /\ x | x € {b, c} }
= sup (fun y => \ex x, x € {b, c} \and y = a /\ x)
```

would be great to express this purely in terms of `inf` instead of `meet`. Ah, the docstring says this. Still, `Frame` doesn't seem like a good name for this class.

File: src/Std/Internal/Do/Assertion.lean [hunk 7]
```diff
@@ -0,0 +1,341 @@
...
+theorem join_le (x y z : α) : x ⊑ z → y ⊑ z → x ⊔ y ⊑ z := by
+  intro hxz hyz
+  apply sup_le
+  intro w hw
+  cases hw with
+  | inl h => rw [h]; exact hxz
+  | inr h => rw [h]; exact hyz
+
+/-- Indexed infimum -/
+noncomputable def iInf {ι : Type v} (f : ι → α) : α := inf (fun x => ∃ i, f i = x)
```
Comment (sgraf812) [inline src/Std/Internal/Do/Assertion.lean:89]: Looks dead?!

File: src/Std/Do'/LatticeExt.lean [hunk 8]
```diff
@@ -0,0 +1,341 @@
...
+Embedding propositions into a partial order with top and bottom.
+-/
+
+open Classical in
+/-- Pure embedding of propositions into a complete lattice. -/
+noncomputable def CompleteLattice.pure {l : Type u} [CompleteLattice l] : Prop → l := fun p =>
+  if p then ⊤ else latticeBot
+
+@[inherit_doc CompleteLattice.pure]
+notation "⌜" p "⌝" => CompleteLattice.pure p
```
Comment (sgraf812) [inline src/Std/Do'/LatticeExt.lean]: scope it

File: src/Std/Do'/PredTrans.lean [hunk 9]
```diff
@@ -0,0 +1,202 @@
...
+/-!
+# Predicate Transformers
+
+This module defines the type `PredTrans l e α` of *predicate transformers* for weakest
+precondition reasoning over monadic programs with exception postconditions.
+
+A predicate transformer `x : PredTrans l e α` takes a normal postcondition `post : α → l`,
+an exception postcondition `epost : e`, and returns a precondition of type `l`. It also
+carries a proof that the transformation is monotone in both `post` and `epost`.
+
```
Comment (sgraf812) [inline src/Std/Do'/PredTrans.lean]: We need to think about better names. `l` is non-descript. How about `assertion` and `eassertion`?

File: src/Std/Do'/PredTrans.lean [hunk 10]
```diff
@@ -0,0 +1,202 @@
...
+/-!
+# Predicate Transformers
+
+This module defines the type `PredTrans l e α` of *predicate transformers* for weakest
+precondition reasoning over monadic programs with exception postconditions.
+
+A predicate transformer `x : PredTrans l e α` takes a normal postcondition `post : α → l`,
+an exception postcondition `epost : e`, and returns a precondition of type `l`. It also
+carries a proof that the transformation is monotone in both `post` and `epost`.
```
Comment (sgraf812) [inline src/Std/Do'/PredTrans.lean]: It doesn't appear to carry a monotonicity proof.
```suggestion
an exception postcondition `epost : e`, and returns a precondition of type `l`.
```

File: src/Std/Do'/PredTrans.lean [hunk 11]
```diff
@@ -0,0 +1,202 @@
...
+- `PredTrans.pushExcept` — adds an exception layer to a predicate transformer
+- `pushArg` — adds a state argument to a predicate transformer
+- Instances for `Monad`, `LawfulMonad`, `MonadStateOf`, `MonadExceptOf`, etc.
+-/
+
+namespace Std.Do'
+
+/-- A monotone predicate transformer from postconditions to preconditions.
+
+Given a return type `α`, a lattice `l` for assertions, and an exception postcondition type `e`,
```
Comment (sgraf812) [inline src/Std/Do'/PredTrans.lean]:
```suggestion
Given a return type `α`, a lattice `l` for assertions, and an exception assertion type `e`,
```

File: src/Std/Do'/PredTrans.lean [hunk 12]
```diff
@@ -0,0 +1,202 @@
...
+`PredTrans l e α` wraps a function `(α → l) → e → l` together with a monotonicity proof:
```
Comment (sgraf812) [inline src/Std/Do'/PredTrans.lean]: Still no monotonicity proof

File: src/Std/Do'/PredTrans.lean [hunk 13]
```diff
@@ -0,0 +1,202 @@
...
+if the postcondition and exception postcondition get weaker, the precondition gets weaker too. -/
+def PredTrans (l : Type u) (e : Type v) (α : Type w) := (α → l) → e → l
```
Comment (sgraf812) [inline src/Std/Do'/PredTrans.lean]: I think having it as a (semi-reducible) `def` invites defeq abuse. It should be a `structure` with a single field, and there should be a `def PredTrans.apply (p : PredTrans l e α) : (α → l) → e → l` for applying it.

File: src/Std/Do'/PredTrans.lean [hunk 14]
```diff
@@ -0,0 +1,202 @@
...
+  inferInstanceAs (PartialOrder ((α → l) → e → l))
+
+/-- Chain-complete partial order on predicate transformers, for fixed-point reasoning. -/
+instance [CCPO l] : CCPO (PredTrans l e α) :=
+  inferInstanceAs (CCPO ((α → l) → e → l))
+
+/-- `Monad` instance for `PredTrans`: `pure` returns the postcondition applied to the value,
+and `bind` threads the postcondition through the continuation. -/
+instance instMonadPredTrans (l : Type u) (e : Type v) : Monad (PredTrans l e) where
+  pure x := fun post _epost => post x
```
Comment (sgraf812) [inline src/Std/Do'/PredTrans.lean]: (This is an example of defeq abuse)

File: src/Std/Do'/PredTrans.lean [hunk 15]
```diff
@@ -0,0 +1,202 @@
...
+    [MonadExceptOf ε (PredTrans l e)] :
+    MonadExceptOf ε (PredTrans l (EPost.cons (ε' → l) e)) where
+  throw x := fun post epost => (throw (m := PredTrans l e) x) post epost.tail
+  tryCatch x handle := fun post epost =>
+    tryCatch (m := PredTrans l e)
+      (fun post' epost' => x post' ⟨epost.head, epost'⟩)
+      (fun e post' epost' => handle e post' ⟨epost.head, epost'⟩)
+      post epost.tail
+
+end Std.Do'
```
Comment (sgraf812) [inline src/Std/Do'/PredTrans.lean]: Ensure that this covers the entire API currently exported by Std.Do.PredTrans. I think it still misses the `apply_*` simp framework (because there is no `apply`). It also misses `pushOption`.

File: src/Std/Do'/ExceptPost.lean [hunk 16]
```diff
@@ -0,0 +1,227 @@
...
+- `EPost.nil` is the empty exception postcondition (no exceptions).
+- `EPost.cons eh et` pairs a head postcondition type `eh` with a tail `et`.
+- `EPost⟨e₁, e₂, ...⟩` is notation for nested `EPost.cons`.
+- `epost⟨v₁, v₂, ...⟩` is notation for constructing exception postcondition values.
+-/
+
+namespace Std.Do'
+
+/-- The empty exception postcondition type, used when a monad has no exception layers. -/
+inductive EPost.nil : Type where
```
Comment (sgraf812) [inline src/Std/Do'/ExceptPost.lean]: `structure` would be a bit cleaner, I think.

File: src/Std/Do'/ExceptPost.lean [hunk 17]
```diff
@@ -0,0 +1,227 @@
...
+  /-- The unique inhabitant of the empty exception postcondition. -/
+  | mk
+
+/-- A cons cell pairing a head exception postcondition type `eh` with a tail `et`.
+
+For a monad with exception type `ε` over lattice `l`, the head `eh` is typically `ε → l`
+and the tail `et` tracks remaining exception layers. -/
+inductive EPost.cons (eh : Type u) (et : Type v) where
```
Comment (sgraf812) [inline src/Std/Do'/ExceptPost.lean]: dito

File: src/Std/Do'/ExceptPost.lean [hunk 18]
```diff
@@ -0,0 +1,227 @@
...
+        · apply sup_le; rintro _ ⟨p, hp, rfl⟩
+          have hpq : p ⊑ q := h p hp
+          have hpq' : p.head ⊑ q.head ∧ p.tail ⊑ q.tail := by
+            have hpqMeet : (p.head ⊑ q.head) ⊓ (p.tail ⊑ q.tail) := by
+              simpa [PartialOrder.rel] using hpq
+            simpa [meet_prop_eq_and] using hpqMeet
+          exact hpq'.2
+      have hqMeet : (supHead ⊑ q.head) ⊓ (supTail ⊑ q.tail) := by
+        simpa [meet_prop_eq_and] using hq
+      simpa [PartialOrder.rel] using hqMeet
```
Comment (sgraf812) [inline src/Std/Do'/ExceptPost.lean]: This is quite a lot of code. I think it would be much simpler to define these instances in terms of the CompleteLattices instances for `PUnit` and `PProd`, no?

File: src/Std/Do'/ExceptPost.lean [hunk 19]
```diff
@@ -0,0 +1,227 @@
...
+
+/-!
+## Ordering Lemmas
+-/
+
+/-- Construct an ordering proof for `EPost.cons` from component orderings. -/
+@[grind .] theorem EPost.cons.mk_rel [PartialOrder eh] [PartialOrder et]
```
Comment (sgraf812) [inline src/Std/Do'/ExceptPost.lean]:
```suggestion
@[grind .] theorem EPost.cons.rel_mk [PartialOrder eh] [PartialOrder et]
```

following the naming convention of the theorems that follow

File: src/Std/Do'/ExceptPost.lean [hunk 20]
```diff
@@ -0,0 +1,227 @@
...
+    {p q : EPost.cons eh et} (h : p ⊑ q) : p.tail ⊑ q.tail :=
+  ((meet_prop_eq_and _ _).mp h).2
+
+/-- An `EPost.cons` value is below another if both components are below. -/
+theorem EPost.cons_rel [PartialOrder e] [PartialOrder e'] (eposth : e) (epostt : e') (epost : EPost.cons e e') :
+    eposth ⊑ epost.head →
+    epostt ⊑ epost.tail →
+    EPost.cons.mk eposth epostt ⊑ epost := by
+  intro hh ht
+  simp_all [PartialOrder.rel]
```
Comment (sgraf812) [inline src/Std/Do'/ExceptPost.lean]: This looks like a generalization of `EPost.cons.rel_mk`. Do we need both? It sounds a bit like we want an "extensionality"-style lemma that proves `epost1 <= epost2` by proving `epost1.head <= epost2.head` and `epost1.tail <= epost2.tail`.

File: src/Std/Do'/WP/Basic.lean [hunk 21]
```diff
@@ -0,0 +1,427 @@
...
+
+variable {m : Type u → Type z}
+
+/-- An assertion language is a type equipped with a `CompleteLattice` structure,
+used as the carrier for pre- and postconditions. -/
+class AssertionLang (l : Type w) where
+  /-- The complete lattice instance on the assertion language. -/
+  cl : CompleteLattice l
+
+attribute [reducible, instance high] AssertionLang.cl
```
Comment (sgraf812) [inline src/Std/Do'/WP/Basic.lean]: I think implicit reducible should be enough
```suggestion
attribute [implicit_reducible, instance high] AssertionLang.cl
```

File: src/Std/Do'/WP/Basic.lean [hunk 22]
```diff
@@ -0,0 +1,427 @@
...
+
+/-- `Prop` is an assertion language via its complete lattice structure. -/
+instance (priority := high) : AssertionLang Prop where
```
Comment (sgraf812) [inline src/Std/Do'/WP/Basic.lean]: Is the `priority := high` really necessary?

File: src/Std/Do'/WP/Basic.lean [hunk 23]
```diff
@@ -0,0 +1,427 @@
...
+  cl := inferInstance
+
+/-- Function types into an assertion language are again assertion languages (pointwise). -/
+instance (priority := high) {l : Type u} {σ : Type v} [AssertionLang l] :
+    AssertionLang (σ → l) where
+  cl := inferInstance
+
+/-- Every assertion language is a partial order. -/
+instance [AssertionLang l] : PartialOrder l := inferInstance
```
Comment (sgraf812) [inline src/Std/Do'/WP/Basic.lean]: Is this necessary with the attributes on `AssertionLang.cl`?

File: src/Std/Do'/WP/Basic.lean [hunk 24]
```diff
@@ -0,0 +1,427 @@
...
+
+/-- An exception assertion language wraps an `AssertionLang` for exception postcondition types. -/
+class ExceptAssertionLang (e : Type w) where
+  /-- The underlying assertion language. -/
+  as : AssertionLang e
+
+/-- The `CompleteLattice` from `ExcpetAssertionLang`. -/
+instance [ExceptAssertionLang e] : CompleteLattice e := ExceptAssertionLang.as.cl
```
Comment (sgraf812) [inline src/Std/Do'/WP/Basic.lean]: This looks like a different mechanism than for `AssertionLang.cl`

File: src/Std/Do'/WP/Basic.lean [hunk 25]
```diff
@@ -0,0 +1,427 @@
...
+
+/-!
+## Derived WP Lemmas
+
+One-directional consequences of the `WPMonad` axioms for `pure`, `bind`, monotonicity,
+and weakening.
+-/
+
+theorem WPMonad.wp_pure [Monad m] [WPMonad m l el] (x : α) (post : α → l) (epost : el) :
+  post x ⊑ wp (pure (f := m) x) post epost := by apply wp_trans_pure x
```
Comment (sgraf812) [inline src/Std/Do'/WP/Basic.lean]:
```suggestion
    post x ⊑ wp (pure (f := m) x) post epost := by apply wp_trans_pure x
```

🧐

File: src/Std/Do'/WP/Basic.lean [hunk 26]
```diff
@@ -0,0 +1,427 @@
...
+-/
+
+/-- Weakest precondition monad: a monad `m` with a sound interpretation as predicate
+transformers over assertion language `l` with exception postconditions `el`. -/
+class WPMonad (m : Type u → Type v) (l : outParam (Type w)) (el : outParam (Type w'))
+    [Monad m] extends LawfulMonad m, AssertionLang l, ExceptAssertionLang el where
+  /-- The weakest precondition transformer for a monadic program. -/
+  wpTrans : m α → PredTrans l el α
+  /-- Soundness of `pure`: the postcondition applied to `x` implies the WP of `pure x`. -/
+  wp_trans_pure (x : α) : pure x ⊑ wpTrans (pure (f := m) x)
```
Comment (sgraf812) [inline src/Std/Do'/WP/Basic.lean:66]:
```suggestion
  wpTrans_pure (x : α) : pure x ⊑ wpTrans (pure (f := m) x)
```

File: src/Std/Do'/WP/Basic.lean [hunk 27]
```diff
@@ -0,0 +1,427 @@
...
+
+theorem WPMonad.wp_pure [Monad m] [WPMonad m l el] (x : α) (post : α → l) (epost : el) :
+  post x ⊑ wp (pure (f := m) x) post epost := by apply wp_trans_pure x
+
+theorem WPMonad.wp_bind [Monad m] [WPMonad m l el] (x : m α) (f : α → m β)
+  (post : β → l) (epost : el) :
+    wp x (fun x => wp (f x) post epost) epost ⊑ wp (x >>= f) post epost := by
+  apply wp_trans_bind x f
+
+theorem WPMonad.wp_cons [Monad m] [WPMonad m l el] (x : m α)
```
Comment (sgraf812) [inline src/Std/Do'/WP/Basic.lean]: I'm tempted to call this monotonicity. If you want to stick to `cons`, then I suggest `wp_conseq` or better `wp_consequence` instead.

File: src/Std/Do'/WP/Basic.lean [hunk 28]
```diff
@@ -0,0 +1,427 @@
...
+A `WPMonad m l el` instance provides a monad morphism `wpTrans : m α → PredTrans l el α`
+satisfying:
+- `wp_trans_pure`: `pure x` is at least as strong as its predicate transformer.
+- `wp_trans_bind`: sequential composition is sound.
+- `wp_trans_monotone`: the transformer is monotone in both postconditions.
+-/
+
+/-- Weakest precondition monad: a monad `m` with a sound interpretation as predicate
+transformers over assertion language `l` with exception postconditions `el`. -/
+class WPMonad (m : Type u → Type v) (l : outParam (Type w)) (el : outParam (Type w'))
```
Comment (sgraf812) [inline src/Std/Do'/WP/Basic.lean]:
```suggestion
class WP (m : Type u → Type v) (l : outParam (Type w)) (el : outParam (Type w'))
```

File: src/Std/Do'/WP/Basic.lean [hunk 29]
```diff
@@ -0,0 +1,427 @@
...
+
+/-- `Option` is a WPMonad with `Prop` assertions and a single `Prop` exception postcondition. -/
+instance Option.instWPMonad : WPMonad Option.{u} Prop Prop where
+  wpTrans x := fun post epost => x.elim epost post
+  wp_trans_pure x := PartialOrder.rel_refl
+  wp_trans_bind x f := fun post epost => by cases x <;> exact id
+  wp_trans_monotone x := fun post post' epost epost' hepost hpost => by
+    cases x with
+    | none => exact hepost
+    | some a => exact hpost a
```
Comment (sgraf812) [inline src/Std/Do'/WP/Basic.lean]: This instance should come later near Except. Also OptionT is missing.

File: src/Std/Do'/WP/Lemmas.lean [hunk 30]
```diff
@@ -0,0 +1,719 @@
...
+    wp x (fun a => wp (f a) post epost) epost ⊑ wp (x >>= f) post epost := by
+  exact WPMonad.wp_bind x f post epost
+
+theorem map_wp [Monad m] [WPMonad m l e] (f : α → β) (x : m α) :
+    wp x (fun a => post (f a)) epost ⊑ wp (f <$> x) post epost :=
+  WPMonad.wp_map f x post epost
+
+theorem seq_wp [Monad m] [WPMonad m l e] (f : m (α → β)) (x : m α) :
+    ∀ post epost, wp f (fun g => wp x (fun a => post (g a)) epost) epost ⊑ wp (f <*> x) post epost :=
+  WPMonad.wp_seq f x
```
Comment (sgraf812) [inline src/Std/Do'/WP/Lemmas.lean]: These look dead. At the very least they are duplicates that should be killed.

File: src/Std/Do'/Triple/SpecLemmas.lean [hunk 31]
```diff
@@ -0,0 +1,2264 @@
...
+      (MonadFunctor.monadMap (m := m) f x : ExceptT ε m α) post epost :=
+  Triple.iff.mpr (by rw [WP.monadMap_ExceptT_wp])
+
+/-
+theorem Spec.monadMap_OptionT
+    (f : ∀{β}, m β → m β) {α} (x : OptionT m α) (post : α → l) (epost : e × l) :
+    Triple (wp (f x.run) (fun o => match o with | some a => post a | none => epost.2) epost.1)
+      (MonadFunctor.monadMap (m := m) f x : OptionT m α) post epost :=
+  Triple.iff.mpr (by rw [monadMap_OptionT_wp]; rfl)
+-/
```
Comment (sgraf812) [inline src/Std/Do'/Triple/SpecLemmas.lean]: Resurrect?

File: src/Std/Do'/Triple/SpecLemmas.lean [hunk 32]
```diff
@@ -0,0 +1,2264 @@
...
+  Triple.iff.mpr (by simp [WP.liftWith_ExceptT_wp f]; apply WPMonad.wp_map'; ext; rfl)
+
+/-
+theorem Spec.liftWith_OptionT
+    (f : (∀{β}, OptionT m β → m (Option β)) → m α) (post : α → l) (epost : e × l) :
+    Triple (wp (f (fun x => x.run)) post epost.1)
+      (MonadControl.liftWith (m:=m) f : OptionT m α) post epost :=
+  Triple.iff.mpr (WP.liftWith_OptionT_wp f)
+-/
+
```
Comment (sgraf812) [inline src/Std/Do'/Triple/SpecLemmas.lean]: dito

File: src/Std/Do'/Triple/SpecLemmas.lean [hunk 33]
```diff
@@ -0,0 +1,2264 @@
...
+    Triple (wp x (epost.pushExcept post) epost.tail)
+      (MonadControl.restoreM (m:=m) x : ExceptT ε m α) post epost :=
+  Triple.iff.mpr (by rw [WP.restoreM_ExceptT_wp])
+
+/-
+theorem Spec.restoreM_OptionT (x : m (Option α)) (post : α → l) (epost : e × l) :
+    Triple (wp x (fun (o : Option α) => match o with | some a => post a | none => epost.2) epost.1)
+      (MonadControl.restoreM (m:=m) x : OptionT m α) post epost :=
+  Triple.iff.mpr (by rw [WP.restoreM_OptionT_wp]; rfl)
+-/
```
Comment (sgraf812) [inline src/Std/Do'/Triple/SpecLemmas.lean]: dito

File: src/Std/Do'/Triple/SpecLemmas.lean [hunk 34]
```diff
@@ -0,0 +1,2264 @@
...
+theorem Spec.tryCatch_Option (x : Option α) (h : PUnit → Option α) :
+    Triple (wp x post (wp (h ⟨⟩) post epost))
+      (MonadExceptOf.tryCatch x h : Option α) post epost :=
+  Triple.iff.mpr (by rw [tryCatch_Option_wp]; rfl)
+
+theorem Spec.orElse_Option (x : Option α) (h : Unit → Option α) (post : α → Prop) (epost : Prop) :
+    Triple (wp x post (wp (h ()) post epost))
+      (OrElse.orElse x h : Option α) post epost :=
+  Triple.iff.mpr (by rw [orElse_Option_wp]; rfl)
+-/
```
Comment (sgraf812) [inline src/Std/Do'/Triple/SpecLemmas.lean]: resurrect

File: src/Std/Internal/Do/Triple/SpecLemmas.lean [hunk 35]
```diff
@@ -0,0 +1,2264 @@
+/-
```
Comment (sgraf812) [inline src/Std/Internal/Do/Triple/SpecLemmas.lean:1]: This file will need a tedious merge. I think it has fallen a bit out of date with the production one.

File: src/lean-toolchain [hunk 36]
```diff
@@ -1 +1 @@
-../build/release/stage0
+lean4-stage0
```
Comment (sgraf812) [inline src/lean-toolchain]: revert

File: tests/env_bench.sh [hunk 37]
```diff
@@ -0,0 +1,2 @@
+#!/usr/bin/env bash
+export LEAN_CC=/Library/Developer/CommandLineTools/usr/bin/cc STAGE='1' SRC_DIR='/Users/volodeyka/Desktop/NUS/Lean/lean4/src' TEST_DIR='/Users/volodeyka/Desktop/NUS/Lean/lean4/tests' BUILD_DIR='/Users/volodeyka/Desktop/NUS/Lean/lean4/build/release/stage1' SCRIPT_DIR='/Users/volodeyka/Desktop/NUS/Lean/lean4/src/../script' PATH='/Users/volodeyka/Desktop/NUS/Lean/lean4/build/release/stage1/bin':"$PATH" LEANC_OPTS=' -I/Users/volodeyka/Desktop/NUS/Lean/lean4/build/release/stage1/include -O3 -DNDEBUG' CXX='/Library/Developer/CommandLineTools/usr/bin/c++  -I/Users/volodeyka/Desktop/NUS/Lean/lean4/build/release/stage1/include -O3 -DNDEBUG' TEST_BENCH= TEST_BENCH=1
```
Comment (sgraf812) [inline tests/env_bench.sh]: revert?

File: tests/env_test.sh [hunk 38]
```diff
@@ -0,0 +1,2 @@
+#!/usr/bin/env bash
+export LEAN_CC=/Library/Developer/CommandLineTools/usr/bin/cc STAGE='1' SRC_DIR='/Users/volodeyka/Desktop/NUS/Lean/lean4/src' TEST_DIR='/Users/volodeyka/Desktop/NUS/Lean/lean4/tests' BUILD_DIR='/Users/volodeyka/Desktop/NUS/Lean/lean4/build/release/stage1' SCRIPT_DIR='/Users/volodeyka/Desktop/NUS/Lean/lean4/src/../script' PATH='/Users/volodeyka/Desktop/NUS/Lean/lean4/build/release/stage1/bin':"$PATH" LEANC_OPTS=' -I/Users/volodeyka/Desktop/NUS/Lean/lean4/build/release/stage1/include -O3 -DNDEBUG' CXX='/Library/Developer/CommandLineTools/usr/bin/c++  -I/Users/volodeyka/Desktop/NUS/Lean/lean4/build/release/stage1/include -O3 -DNDEBUG' TEST_BENCH=
```
Comment (sgraf812) [inline tests/env_test.sh]: revert

File: tests/lean-toolchain [hunk 39]
```diff
@@ -1 +1 @@
-../build/release/stage1
+lean4
```
Comment (sgraf812) [inline tests/lean-toolchain]: revert

File: lean-toolchain [hunk 40]
```diff
@@ -1 +1 @@
-build/release/stage1
+lean4
```
Comment (sgraf812) [inline lean-toolchain]: revert

File: src/Std/Do/Triple/SpecLemmas.lean [hunk 41]
```diff
@@ -227,6 +227,7 @@ theorem Spec.seq [Monad m] [WPMonad m ps] {α β} {x : m (α → β)} {y : m α}
 
 /-! # `MonadLift` -/
 
+
```
Comment (sgraf812) [inline src/Std/Do/Triple/SpecLemmas.lean:239]: revert

File: src/Std/Do'/Triple/SpecLemmas.lean [hunk 42]
```diff
@@ -0,0 +1,2264 @@
...
+A loop invariant is a pair of:
+* A function `List.Cursor xs × β → l` mapping the iteration cursor and state to a lattice element.
+* An exception postcondition `e`.
+-/
+abbrev Invariant {α : Type u₁} (xs : List α) (β : Type u₂)
+    (l : Type (max u₁ u₂)) :=
+  (List.Cursor xs × β → l)
+
+set_option linter.missingDocs false in
+abbrev eInvariant (e : Type u) := e
```
Comment (sgraf812) [inline src/Std/Do'/Triple/SpecLemmas.lean]: remove

**Review by sgraf812 — COMMENTED** [review]
Generally fine, but there are a couple of smaller things worth of cleanup that I didn't bother addressing. Let Claude have a second-opinion/review pass on this for cleanup.

File: src/Std/Internal/Do/Frame.lean (hunk 6 above)
Comment (volodeyka) [reply src/Std/Internal/Do/Frame.lean:29]: `Frame` is actually a name from mathlib. Moreover, their "minimal axioms" definition is exactly the same https://github.com/leanprover-community/mathlib4/blob/69f7ea6184cc0c4d2b647be86349053ba7788bc3/Mathlib/Order/CompleteBooleanAlgebra.lean#L76

What do you think would a better naming?

File: src/Std/Internal/Do/Assertion.lean (hunk 7 above)
Comment (volodeyka) [reply src/Std/Internal/Do/Assertion.lean:89]: I would still keep it, as users might want to use `forall` quantification in the logic. For example, it would be useful to define a spec for non-deterministic choice operator. Should we still keep it?

File: src/Std/Do'/WP/Basic.lean (hunk 28 above)
Comment (volodeyka) [reply src/Std/Do'/WP/Basic.lean]: Should we really do this? In `Std.Do` you also have a `WPMonad` type class. Also names like `LawfullMonad` or `MonadLift` suggest that keeping monad is a convention. In theory one can define `WP` on something more general than a monad, say a `Functor`.

File: src/Std/Do'/Triple/SpecLemmas.lean (hunk 42 above)
Comment (volodeyka) [reply src/Std/Do'/Triple/SpecLemmas.lean]: This seems to be used in lemmas below. Should remove it at all?

File: src/Std/Internal/Do/Assertion.lean (hunk 7 above)
Comment (sgraf812) [reply src/Std/Internal/Do/Assertion.lean:89]: Yes, then it makes sense to keep it. Although it sounds that before long, this will become a comprehensive library around `CompleteLattice`. We should sync up with @nomeata and see whether this is something he is supportive of.

File: src/Std/Internal/Do/Frame.lean (hunk 6 above)
Comment (sgraf812) [reply src/Std/Internal/Do/Frame.lean:29]: Oh, I wasn't aware! I thought that "Frame" referred to the frame rule of the logic. So I think "Frame" is fine. Maybe copy/adjust the Mathlib docstring? "An order is a frame" would have prevented my confusion, I think

File: src/Std/Experimental/Do/WP/Lemmas.lean [hunk 43]
```diff
@@ -0,0 +1,687 @@
...
+open Lean.Order WP
+
+universe u v
+variable {m : Type u → Type v}
+
+/-! ## MonadReaderOf simp lemmas -/
+
+theorem read_ReaderT_wp [Monad m] [Assertion Pred] [Assertion EPred] [WP m Pred EPred]
+    (post : ρ → ρ → Pred) (epost : EPred) :
+    (fun r => post r r) ⊑ wp (MonadReaderOf.read : ReaderT ρ m ρ) post epost := by
```
Comment (sgraf812) [inline src/Std/Experimental/Do/WP/Lemmas.lean:35]: Hmm. There are many lemmas in this file that aren't `simp` lemmas just because `WP.wp_pure` isn't an equality. Not sure this is enough evidence to make it an equality, though...

File: src/Std/Experimental/Do/WP/Lemmas.lean [hunk 44]
```diff
@@ -0,0 +1,687 @@
...
+theorem modifyGet_StateT_wp [Monad m] [Assertion Pred] [Assertion EPred] [WP m Pred EPred] (f : σ → α × σ)
+    (post : α → σ → Pred) (epost : EPred) :
+    (fun s => post (f s).1 (f s).2) ⊑ wp (MonadStateOf.modifyGet f : StateT σ m α) post epost := by
+  intro s
+  simpa [MonadStateOf.modifyGet] using
+    (WP.wp_pure (m := m) (x := f s)
+      (post := fun x => post x.fst x.snd) (epost := epost))
+
+@[simp]
+theorem get_EStateM_wp :
```
Comment (sgraf812) [inline src/Std/Experimental/Do/WP/Lemmas.lean:72]: I'm not convinced we need these lemmas to be `simp` anyway. *If* we want them to be `simp`, then we should only make it so when `PredTrans.apply`d, like in the old framework!

File: src/Std/Experimental/Do/Triple/Basic.lean [hunk 45]
```diff
@@ -0,0 +1,92 @@
...
+is a *specification* for `x`: if assertion `pre` holds before `x`, then postcondition `post` holds
+after running `x` (and `epost` handles any errors). -/
+inductive Triple [Monad m] [Assertion Pred] [Assertion EPred] [WPMonad m Pred EPred] (pre : Pred) (x : m α) (post : α → Pred) (epost : EPred) : Prop
+  /-- Construct a triple from a weakest precondition entailment. -/
+  | intro (hwp : pre ⊑ wp x post epost)
+
+/-- Hoare triple notation without exception postcondition (defaults to `⊥`). -/
+notation:60 "⦃ " pre " ⦄ " x " ⦃ " post " ⦄" => Triple pre x post ⊥
+/-- Hoare triple notation with a binder for the return value. -/
+notation:60 "⦃ " pre " ⦄ " x " ⦃ " v ", " post " ⦄" => Triple pre x (fun v => post) ⊥
```
Comment (sgraf812) [inline src/Std/Experimental/Do/Triple/Basic.lean:42]: This is a breaking change to every existing use of notation... We should ensure that it is actually better than what we currently have. Let's discuss this in our next meeting.

What I like about what we currently have is that `⦃pre⦄ x ⦃⇓r => post⦄` evokes similarity to Lean's `fun r => post` syntax. On the other hand, `⦃pre⦄ x ⦃r, post⦄` looks neater and is closer to what people might be used to from pen and paper proofs. However, it's quite un-Lean-ish.

Furthermore, `⦃pre⦄ x ⦃⇓? r => post⦄` can be used to say `Triple $pre $x (fun r => $post) T` and there presently is no notation to say this in your patch. Generally it seems that you lose notation whenever the `epost` is non-bottom.

Maybe the cleanest solution is:

* `⦃pre⦄ x ⦃post⦄` => `Triple pre x post ⊥` (your first notation)
* `⦃pre⦄ x ⦃post⦄?` => `Triple pre x post T`
* `⦃pre⦄ x ⦃post⦄ ⦃eposts...⦄` => `Triple pre x post epost<eposts...>` (likely needs to be a macro)
* `⦃pre⦄ x ⦃r => post⦄` => `⦃pre⦄ x ⦃fun r => post⦄` (compositional expansion; the `fun` is effectively optional. Not sure if that's worth it. I tend to think it isn't.)

File: src/Std/Experimental/Do/Triple/Basic.lean [hunk 46]
```diff
@@ -0,0 +1,92 @@
...
+
+universe u v
+variable {m : Type u → Type v} {Pred : Type u} {EPred : Type u}
+
+/-- A Hoare triple for reasoning about monadic programs. A Hoare triple `Triple pre x post epost`
+is a *specification* for `x`: if assertion `pre` holds before `x`, then postcondition `post` holds
+after running `x` (and `epost` handles any errors). -/
+inductive Triple [Monad m] [Assertion Pred] [Assertion EPred] [WPMonad m Pred EPred] (pre : Pred) (x : m α) (post : α → Pred) (epost : EPred) : Prop
+  /-- Construct a triple from a weakest precondition entailment. -/
+  | intro (hwp : pre ⊑ wp x post epost)
```
Comment (sgraf812) [inline src/Std/Experimental/Do/Triple/Basic.lean:37]: Remind me again why it can't be a `structure`?

File: src/Std/Experimental/Do/Frame.lean [hunk 47]
```diff
@@ -0,0 +1,114 @@
...
+      split
+      · next h => subst h; exact hy
+      · exact PartialOrder.rel_trans (meet_le_right ..) (latticeBot_le ..)
+    have hs : f s = y := by simp [f]
+    exact le_sup (c := fun z => ∃ g, (a ⊓ g ⊑ b) ∧ g s = z) ⟨f, hf, hs⟩
+
+syntax:60 "(" ident " : " term ")" " ⇨ " term : term
+
+macro_rules
+  | `(($n:ident : $a) ⇨ $b) => `((withName $(Lean.quote n.getId) $a) ⇨ $b)
```
Comment (sgraf812) [inline src/Std/Experimental/Do/Frame.lean:110]: What's `withName`? Claude can't find it and I can't either. Is it like `binderNameHint`?

File: src/Std/Experimental/Do/LatticeExt.lean [hunk 48]
```diff
@@ -0,0 +1,343 @@
...
+-/
+
+section LatticeExtensions
+
+attribute [refl] PartialOrder.rel_refl
+
+variable {α : Type u} [CompleteLattice α]
+
+/-- Top element of a complete lattice (supremum of all elements) -/
+noncomputable def latticeTop : α := CompleteLattice.sup (fun _ => True)
```
Comment (sgraf812) [inline src/Std/Experimental/Do/LatticeExt.lean:33]: Should still be named `Lean.Order.top` and ultimately be moved to Init.

File: src/Std/Experimental/Do/LatticeExt.lean [hunk 49]
```diff
@@ -0,0 +1,343 @@
...
+
+@[inherit_doc latticeTop]
+scoped notation "⊤" => latticeTop
+
+theorem le_top (x : α) : x ⊑ ⊤ := by
+  apply le_sup
+  trivial
+
+/-- Bottom element of a complete lattice (infimum of all elements) -/
+noncomputable def latticeBot : α := inf (fun _ => True)
```
Comment (sgraf812) [inline src/Std/Experimental/Do/LatticeExt.lean:43]: duplciates Lean.Order.bot.

File: src/Std/Experimental/Do/LatticeExt.lean [hunk 50]
```diff
@@ -0,0 +1,343 @@
...
+
+theorem latticeBot_le (x : α) : latticeBot ⊑ x := by
```
Comment (sgraf812) [inline src/Std/Experimental/Do/LatticeExt.lean:45]: Can be deleted since there should be a matching theorem for Lean.Order.bot.

File: src/Std/Experimental/Do/LatticeExt.lean [hunk 51]
```diff
@@ -0,0 +1,343 @@
...
+
+@[simp]
+theorem trueE (l : Type v) [CompleteLattice l] : ⌜True⌝ = (⊤ : l) := by
+  simp [CompleteLattice.pure]
+
+@[simp]
+theorem falseE (l : Type v) [CompleteLattice l] : ⌜False⌝ = (latticeBot : l) := by
+  simp [CompleteLattice.pure]
+
+theorem LE.pure_imp {l : Type u} [CompleteLattice l]
```
Comment (sgraf812) [inline src/Std/Experimental/Do/LatticeExt.lean:225]: The `LE` type class has nothing to do with this. Better put it under `PartialOrder`? But this actually refers to `CompleteLattice.pure`, so `CompleteLattice.rel_pure_of_imp`, `CompleteLattice.pure_rel_pure` or `CompleteLattice.pure_mono` seem like the best names. I like the latter best.

Also ask Claude for good names here, following the Mathlib convention.

File: src/Std/Experimental/Do/LatticeExt.lean [hunk 52]
```diff
@@ -0,0 +1,343 @@
...
+end LatticeExtensions
+
+/-!
+# Prop Embedding into Partial Order
+
+Embedding propositions into a partial order with top and bottom.
+-/
+
+/-- Pure embedding of propositions into a complete lattice. -/
+noncomputable def CompleteLattice.pure {l : Type u} [CompleteLattice l] (p : Prop) : l :=
```
Comment (sgraf812) [inline src/Std/Experimental/Do/LatticeExt.lean:211]: I wonder if now is a good time to call this function `ofProp` or `embed` instead... Furthermore I wonder if it wouldn't be better to define this function on `Assertion`.

File: src/Std/Experimental/Do/WP/Basic.lean [hunk 53]
```diff
@@ -0,0 +1,414 @@
...
+
+/-- `Id` is a WPMonad with `Prop` assertions and no exceptions. -/
+instance Id.instWPMonad : WPMonad Id.{u} Prop EPost.nil where
+  wpTrans x := ⟨fun post _epost => post x⟩
+  wp_trans_pure _x := PartialOrder.rel_refl
+  wp_trans_bind _x _f := PartialOrder.rel_refl
+  wp_trans_monotone x := fun _ _ _ _ _ hpost => hpost x
+
+@[simp, grind =]
+theorem apply_pushExcept {α ε Pred EPred}
```
Comment (sgraf812) [inline src/Std/Experimental/Do/WP/Basic.lean:187]: Better move into `PredTrans` namespace. Similarly for others

```suggestion
theorem PredTrans.apply_pushExcept {α ε Pred EPred}
```

File: src/Std/Experimental/Do/WP/Basic.lean [hunk 54]
```diff
@@ -0,0 +1,414 @@
...
+interprets a program `x : m α` as a predicate transformer. The function `wp` is the
+user-facing wrapper: `wp x post epost` computes the weakest precondition for `x` to
+satisfy normal postcondition `post` and exception postcondition `epost`.
+
+## Assertion Language Classes
+
+`Assertion` and `Assertion` are both just alias type classes for `CompleteLattice`.
+We introduce them for readability: `Assertion Pred` marks `Pred` as the assertion language for
+normal postconditions, while `Assertion EPred` marks `EPred` as the type of exception
+postconditions.
```
Comment (sgraf812) [inline src/Std/Experimental/Do/WP/Basic.lean:33]: Adjust 

```suggestion
`Assertion` is just an alias type classes for `CompleteLattice`.
We introduce them for readability: `Assertion Pred` marks `Pred` as the assertion language for
normal postconditions, while `Assertion EPred` marks `EPred` as the type of exception
postconditions.
```

File: src/Std/Experimental/Do/WP/Basic.lean [hunk 55]
```diff
@@ -0,0 +1,414 @@
...
+  (WPMonad.wpTrans x).apply = wp x := rfl
+
+/-!
+## Derived WPMonad Lemmas
+
+One-directional consequences of the `WPMonad` axioms for `pure`, `bind`, monotonicity,
+and weakening.
+-/
+
+theorem WPMonad.wp_pure [Monad m] [Assertion Pred] [Assertion EPred] [WPMonad m Pred EPred] (x : α) (post : α → Pred) (epost : EPred) :
```
Comment (sgraf812) [inline src/Std/Experimental/Do/WP/Basic.lean:97]: open a `variable` block to clean up the signatures

File: src/Std/Experimental/Do/WP/Basic.lean [hunk 56]
```diff
@@ -0,0 +1,414 @@
...
+      simpa [hxs] using hepost el s'
+
+/-!
+## Adequacy Lemmas
+
+These lemmas bridge `wp` reasoning to concrete program properties. Each one says:
+if `wp prog ...` holds, then a property `P` holds of the program's result.
+-/
+
+theorem Id.of_wp_run_eq {α : Type u} {x : α} {prog : Id α}
```
Comment (sgraf812) [inline src/Std/Experimental/Do/WP/Basic.lean:361]: These all miss docstrings

**Review by sgraf812 — COMMENTED** [review]
More tomorrow. I'm slowly coming to think that it will be more efficient to merge soon and then guide an AI to do the changes that I request here rather then writing comments on GH to have you implement them.

File: src/Std/Experimental/Do/WP/Lemmas.lean (hunk 43 above)
Comment (volodeyka) [reply src/Std/Experimental/Do/WP/Lemmas.lean:35]: I think it's better to keep it symmetrical. I don't see the problem with this lemmas being non-simp. Actually useful lemmas are in `SpecLemmas.lean` anyway. This file is a helper file

File: src/Std/Experimental/Do/Triple/Basic.lean (hunk 45 above)
Comment (volodeyka) [reply src/Std/Experimental/Do/Triple/Basic.lean:42]: As for my taste, I would want to avoid unicode whenever possible. I like `⇓`and `⇓?` symbols, but I feel it requires a little too much of a context.  If we add it, it will be giving Coq-SSReflect vibes, where there are tons of conventions, which are really smart and useful, but make the overall framework highly exclusive. You really need to get into the head of developers to understand what's going on. 

- for `,` versus `=>`, I was thinking of it a lot, and finally deceid on `,` because it is already used in [big operator notations](https://github.com/leanprover-community/mathlib4/blob/a090f46da78e9af11fee348cd7ee47bf8dd219d2/Mathlib/Algebra/BigOperators/Group/Finset/Defs.lean#L27). It is so standard in maths, that it kinda overrides Lean style for me sometimes. 
I think we should either use `,` or jut go with `⦃fun r => post⦄`. Omitting `fun` might confuse people
- I don't have any super strong opinion about `⦃pre⦄ x ⦃post⦄?`. We can add it if you think it is going to be used
- I would change `⦃pre⦄ x ⦃post⦄ ⦃eposts...⦄` into `⦃pre⦄ x ⦃post; eposts...⦄` and also separate `eposts` with `;`. Then it would be somewhat uniform.

File: src/Std/Experimental/Do/Frame.lean (hunk 47 above)
Comment (volodeyka) [reply src/Std/Experimental/Do/Frame.lean:110]: Yes, but I am not actually using it. Let me remove it

File: src/Std/Experimental/Do/LatticeExt.lean (hunk 51 above)
Comment (volodeyka) [reply src/Std/Experimental/Do/LatticeExt.lean:225]: Oh yeah, this name prefix is Loom legacy. `CompleteLattice.pure` would, indeed, be better

File: src/Std/Experimental/Do/LatticeExt.lean (hunk 52 above)
Comment (volodeyka) [reply src/Std/Experimental/Do/LatticeExt.lean:211]: Yeah, `pure` actually clashes with Monads, which would be fine unless we were not introducing this notion to reason about Monads. 
Let me call this file `Assertion.lean` It would have a `LatticeExt` section, which we should eventually upstream to `Init`. The rest of the file would be definition of `Assertion` and `Assertion.ofProp` + lemmas

File: src/Std/Internal/Do/Triple/Basic.lean [hunk 57]
```diff
@@ -0,0 +1,92 @@
...
+is a *specification* for `x`: if assertion `pre` holds before `x`, then postcondition `post` holds
+after running `x` (and `epost` handles any errors). -/
+inductive Triple [Monad m] [Assertion Pred] [Assertion EPred] [WPMonad m Pred EPred] (pre : Pred) (x : m α) (post : α → Pred) (epost : EPred) : Prop
+  /-- Construct a triple from a weakest precondition entailment. -/
+  | intro (hwp : pre ⊑ wp x post epost)
+
+/-- Hoare triple notation without exception postcondition (defaults to `⊥`). -/
+notation:60 "⦃ " pre " ⦄ " x " ⦃ " post " ⦄" => Triple pre x post ⊥
+/-- Hoare triple notation with a binder for the return value. -/
+notation:60 "⦃ " pre " ⦄ " x " ⦃ " v ", " post " ⦄" => Triple pre x (fun v => post) ⊥
```
Comment (sgraf812) [reply src/Std/Internal/Do/Triple/Basic.lean]: Agreed on unicode. we should ensure that `⦃` can be typed as `{{` as well.

* `,` sounds fine then.
* `⦃post⦄?` is useful because you can't really write T in the syntax I proposed
* > I would change ⦃pre⦄ x ⦃post⦄ ⦃eposts...⦄ into ⦃pre⦄ x ⦃post; eposts...⦄ and also separate eposts with ;
  
  Hmm, I fear that `;` is not enough signalling. It is also ambiguous with `⦃v, match v with none => ...; some _ => ...; blah⦄`. Note that Iris separates into two {{}} as well. Also do you expect users to write `⦃post; epost<e1,e2,e3>⦄` (note that we switched from , to ;) or is it more like  `⦃post; e1; e2; e3⦄`?

**Review by sgraf812 — APPROVED** [review]
